US08633001B2
Production of diethyl 2-t-butyloxycarbonylamino-2-ethoxycarbonylsuccinate
A suspension of diethyl 2-t-butyloxycarbonylaminomalonate (5.0 g), potassium carbonate (3.0 g), and ethyl 2-bromoacetate (3.9 g) in DMF (20 mL) was stirred at 50° C. for 4 hours. The reaction mixture was cooled, and then poured into diluted hydrochloric acid, the mixture was extracted with ethyl acetate, and the extract was washed with saturated brine, and then dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was subjected to silica gel column chromatography, and then purification was performed with n-hexane/ethyl acetate (5:1), to obtain the title compound (5.7 g, yield: 79%) as colorless oil.

reactant | diethyl 2-t-butyloxycarbonylaminomalonate | 5.0 g | C(C)(C)(C)OC(=O)NC(C(=O)OCC)C(=O)OCC | C12H21NO6
reactant | potassium carbonate | 3.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 2-bromoacetate | 3.9 g | BrCC(=O)OCC | C4H7BrO2
reactant | hydrochloric acid | Cl | ClH
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | diethyl 2-t-butyloxycarbonylamino-2-ethoxycarbonylsuccinate | 5.7 g, yield: 79% | C(C)(C)(C)OC(=O)NC(C(=O)OCC)(CC(=O)OCC)C(=O)OCC | C16H27NO8
